US08106221B2
Step 7. tert-butyl 3-(2-aminoethoxy)-3-(5-chloro-2-methylphenyl)propyl(methyl)carbamate
tert-Butyl 3-(2-azidoethoxy)-3-(5-chloro-2-methylphenyl)propyl(methyl)carbamate (270 mg, 0.707 mmol) was dissolved in THF/H2O (5 mL, 20:1), PPh3 (741 mg, 2.83 mmol) was added in portions. The reaction mixture was stirred at room temperature overnight. The reaction mixture was concentrated in vacuo and used without further purification.

reactant | tert-Butyl 3-(2-azidoethoxy)-3-(5-chloro-2-methylphenyl)propyl(methyl)carbamate | 0.707 mmol, 270 mg | N(=[N+]=[N-])CCOC(CCN(C(OC(C)(C)C)=O)C)C1=C(C=CC(=C1)Cl)C | C18H27ClN4O3
reactant | PPh3 | 2.83 mmol, 741 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | THF H2O | 5 mL | C1CCOC1.O
product | tert-butyl 3-(2-aminoethoxy)-3-(5-chloro-2-methylphenyl)propyl(methyl)carbamate | NCCOC(CCN(C(OC(C)(C)C)=O)C)C1=C(C=CC(=C1)Cl)C | C18H29ClN2O3
